US03934008
12. DPC-Ser(tBu)-Thr(tBu)-OMe
19.3 g (38.6 mmols) of DPC-Ser(tBu)-OH.cyclohexylamine salt are taken up in 500 ml of chloroform and extracted at 0°C by shaking three times with 25 ml of 1 N citric acid and five times with 40 ml of half-saturated sodium chloride solution. The solution is dried over sodium sulphate and then evaporated and the resulting foam is taken up in 250 ml of ethyl acetate. 5.36 ml (38.6 mmols) of triethylamine are added and the solution is cooled to -10°C and mixed with 5.13 ml (38.6 mmols) of isobutyl chlorocarbonate whilst stirring. The mixture is stirred for 10 minutes at -10°C and a solution of 7.3 g (38.6 mmols) of H-Thr(tBu)-OMe in 100 ml of ethyl acetate, cooled to -12°C, is then added dropwise in such a way that the reaction temperature never exceeds -10°C. After completion of the addition the mixture is stirred for a further hour at - 10°C and is then left to stand overnight at room temperature. The solution is freed of the triethylamine hydrochloride which has separated out by filtering it and is washed at 0°C, three times with 20 ml at a time of 1 N citric acid and five times with saturated sodium chloride solution, dried and evaporated. Crude product (oil); 22.07 g. To purify it, 1 g is chromatographed on a silica gel column (2.5 cm, 30 cm). Using petroleum ether-ethyl acetate (1:1), 787 mg of pure product are eluted after a first run of 110 ml.

reactant | Ser(tBu)-OH | N[C@@H](COC(C)(C)C)C(=O)O | C7H15NO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 38.6 mmols, 5.36 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chlorocarbonate | 38.6 mmols, 5.13 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | H-Thr(tBu)-OMe | 38.6 mmols, 7.3 g | N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC | C9H19NO3
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Ser(tBu)-Thr(tBu)-OMe | N[C@@H](COC(C)(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC | C16H32N2O5
